US07427632B2
N-[1-(4-Fluorophenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide
Using deprotection method B, but without addition of anisole, 4-{2-[(1H-indole-6-carbonyl)amino]-2-(4-fluoro-phenyl)ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester (1.6 g, 3.2 mmol) afforded 1.3 g (100%) of the title compound as a crude residue which was used without further purification.

reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | 4-{2-[(1H-indole-6-carbonyl)amino]-2-(4-fluoro-phenyl)ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester | 3.2 mmol, 1.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=CC=C(C=C1)F)NC(=O)C1=CC=C2C=CNC2=C1 | C28H34FN3O4
product | N-[1-(4-Fluorophenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide | 1.3 g, 100% | FC1=CC=C(C=C1)C(COCC1CCNCC1)NC(=O)C1=CC=C2C=CNC2=C1 | C23H26FN3O2
